US06013836
Preparation of N'-t-butyl-N-benzoyl-carbonyl-N'-benzoylhydrazine
N'-t-butyl-N-benzoylhydrazine (1 g), benzoyl formic acid (1 g), and methanesulfonyl chloride (0.7 g) were stirred in toluene (35 ml) and saturated sodium bicarbonate (15 ml) at approximately 5° C. Triethylamine was added slowly, dropwise to the reaction mixture, and slowly warmed to room temperature. After stirring for 1 hour, the reaction mixture was diluted with toluene (20 ml) and the organic layer was washed several times with water. The organic layers were dried over magnesium sulfate, filtered and the toluene rotavapped off to afford a white gum. The crude product was chromatographed on silica gel (G:230-400 mesh) using a methylene chloride ether solvent system as eluent to afford a 65% yield of a white solid.

reactant | N'-t-butyl-N-benzoylhydrazine | 1 g | C(C)(C)(C)NNC(C1=CC=CC=C1)=O | C11H16N2O
reactant | benzoyl formic acid | 1 g | C(C1=CC=CC=C1)(=O)C(=O)O | C8H6O3
reactant | methanesulfonyl chloride | 0.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 15 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
product | N'-t-butyl-N-benzoyl-carbonyl-N'-benzoylhydrazine | 65% yield | C(C)(C)(C)N(NC(C1=CC=CC=C1)=O)C(C1C(C=CC=C1)=C=O)=O | C19H20N2O3
